US06150373
A mixture of 350 mg (0.7 mmol) of 3-(2,4-dichlorophenyl)-3,4-dihydro-1-[4-(hydroxymethyl)phenyl]-7-methanesulfonyl-pyrimido[4,5-d]pyrimidin-2(1H)-one and 2 ml of aniline was heated at 120° C. for 3 hours. The reaction was cooled to room temperature then partitioned between 2M hydrochloric acid (20 ml) and dichloromethane (20 ml). The organic layer was separated, washed with saturated aqueous sodium bicarbonate (20 ml), dried over magnesium sulfate, filtered and evaporated to give 200 mg (57%) of 7-anilino-3-(2,4-dichlorophenyl)-3,4-dihydro-1-[4-(hydroxymethyl)phenyl]pyrimido[4,5-d]pyrimidin-2(1H)-one as a yellow solid of melting point 121-125° C. [Mass spectrum (ESI) MH+ =492].

reactant | 3-(2,4-dichlorophenyl)-3,4-dihydro-1-[4-(hydroxymethyl)phenyl]-7-methanesulfonyl-pyrimido[4,5-d]pyrimidin-2(1H)-one | 0.7 mmol, 350 mg | ClC1=C(C=CC(=C1)Cl)N1C(N(C2=NC(=NC=C2C1)S(=O)(=O)C)C1=CC=C(C=C1)CO)=O | C20H16Cl2N4O4S
reactant | aniline | 2 ml | NC1=CC=CC=C1 | C6H7N
product | 7-anilino-3-(2,4-dichlorophenyl)-3,4-dihydro-1-[4-(hydroxymethyl)phenyl]pyrimido[4,5-d]pyrimidin-2(1H)-one | 200 mg, 57% | N(C1=CC=CC=C1)C1=NC=C2C(=N1)N(C(N(C2)C2=C(C=C(C=C2)Cl)Cl)=O)C2=CC=C(C=C2)CO | C25H19Cl2N5O2
